US08183275B2
To a stirred solution of 4,4-dimethylhex-1-ene (49.5 g, 442 mmol) in methylene chloride (1 L) at 0° C. was added m-CPBA (120 g, 535 mmol), and the reaction was stirred at rt for 16 h. The reaction mixture was filtered through Celite and the filtrate was washed with saturated sodium hydrogen sulfite (1×1 L), saturated sodium carbonate (2×1 L), dried over sodium sulfate and concentrated to give 2-(2,2-dimethylbutyl)oxirane, which was dissolved in methanol (400 mL). To this solution was added sodium azide (22.8 g, 351 mmol), ammonium chloride (18.8 g, 351 mmol) and water (100 mL). After heating at 80° C. overnight, the volatiles were removed and the residue was partitioned between water (300 mL) and ethyl acetate (300 mL). The organic layer was separated, dried over sodium sulfate and concentrated, and the residue was purified by passing through a silica gel pad (13 cm×10 cm) eluted with 1:9 ethyl acetate/hexanes to provide 1-azido-4,4-dimethylhexan-2-ol. 1H NMR (500 MHz, CDCl3) δ 3.88 (m, 1H), 3.29 (dd, J=12.2 Hz, J=3.7 Hz, 1H), 3.23 (dd, J=12.2 Hz, J=7.7 Hz, 1H), 1.90 (d, J=4.5 Hz, 1H), 1.40 (dd, J=14.7 Hz, J=8.2 Hz, 1H), 1.28 (m, 3H), 0.93 (m, 3H), 0.90 (s, 3H), 0.83 (t, J=7.5 Hz, 3H).

reactant | 4,4-dimethylhex-1-ene | 442 mmol, 49.5 g | CC(CC=C)(CC)C | C8H16
reactant | m-CPBA | 535 mmol, 120 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | 2-(2,2-dimethylbutyl)oxirane | CC(CC1OC1)(CC)C | C8H16O
